US06974802B2
a) Synthesis of benzyl 2-hydroxystearate.
To a stirred solution of DL-2-hydroxystearic acid (3.0 g, 10 mmole) in 20 ml dry DMF was added potassium tert-butoxide (1.23 g, 11 mmole) and the mixture was stirred for one hour at 60° C. Benzyl bromide (2.14 g, 12.5 mmole) was added and the mixture was stirred for six hours at 80° C. The mixture was evaporated under reduced pressure and 100 ml ethyl acatate was added. The organic phase was separated and washed four times with water. The organic phase was dried with sodium sulfate and concentrated in vacuo. The product was isolated by silica gel column chromatography. Yield: 3.3 g

reactant | 2-hydroxystearic acid | 10 mmole, 3.0 g | OC(C(=O)O)CCCCCCCCCCCCCCCC | C18H36O3
reactant | potassium tert-butoxide | 11 mmole, 1.23 g | CC(C)([O-])C.[K+]
reactant | Benzyl bromide | 12.5 mmole, 2.14 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | benzyl 2-hydroxystearate | OC(C(=O)OCC1=CC=CC=C1)CCCCCCCCCCCCCCCC | C25H42O3
